US05142056
1,5-Diphenyl-3-((methoxy)methoxy)pentane
A solution of 101 mg (0.42 mmol) of 1,5-diphenyl-3-pentanol, 0.18 ml (1 0 mmol) of ethyldiisopropylamine, and 0.063 ml (0.84 mmol) of chloromethyl methyl ether in 1 ml of dichloromethane was allowed to stand for 16 h. The resulting solution was taken up in ethyl acetate, washed sequentially with 10% aqueous citric acid, water, and saturated sodium bicarbonate, dried over Na2SO4, and concentrated in vacuo. Flash chromatography using 10% ethyl acetate in hexane gave 109 mg (92%) of the desired compound (Rf 0.51, 25% ethyl acetate in hexane) as an oil. 1H NMR (CDCl3) δ 1.88 (m, 4H), 2.70 (m, 4H), 3.44 (s, 3H), 3 64 (pentet, J=6 Hz, 1H), 4.70 (s, 2H), 7.15-7.3 (m, 10H). Mass spectrum (M+NH4)+ =302.

reactant | 1,5-diphenyl-3-pentanol | 0.42 mmol, 101 mg | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)O | C17H20O
reactant | chloromethyl methyl ether | 0.84 mmol, 0.063 ml | COCCl | C2H5ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ethyldiisopropylamine | 0 mmol, 0.18 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | 1,5-Diphenyl-3-((methoxy)methoxy)pentane | 109 mg | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)OCOC | C19H24O2
